US07291744B2
Step b: Preparation of (RS)-(6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amine Hydrochloride
A mixture of 6-fluoro-3,4-dihydronaphthalen-2(1H)-one oxime (1.58 g, 8.81 mmol), methanol (25 mL), conentrated hydrochloric acid (2 mL) and 10% palladium on charcoal (316 mg) was shaken in a pressure bottle under a hydrogen atmosphere (55 psig). After 18 hours, the mixture was filtered and the solid washed with methanol. The filtrate was concentrated under vacuum, and the residue was washed with ether, dried by concentration from benzene, and dried further under vacuum to provide a white solid (1.48 g, 83%).

reactant | 6-fluoro-3,4-dihydronaphthalen-2(1H)-one oxime | 8.81 mmol, 1.58 g | FC=1C=C2CCC(CC2=CC1)=NO | C10H10FNO
reactant | hydrochloric acid | 2 mL | Cl | ClH
catalyst | palladium on charcoal | 316 mg | [Pd] | Pd
solvent | methanol | 25 mL | CO | CH4O
product | (RS)-(6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)amine Hydrochloride | 1.48 g, 83% | Cl.FC=1C=C2CCC(CC2=CC1)N | InChI=1S/C10H12FN.ClH/c11-9-3-1-8-6-10(12)4-2-7(8)5-9;/h1,3,5,10H,2,4,6,12H2;1H
